### PR TITLE
Building finite fields using polynomial and irreducible polynomial.

### PR DESCRIPTION
**Pull request by thery**
##### Motivation for this change

This is an attempt to finally have the classic construction of finite field using polynomial and irreducible polynomial.
I have tried to merge 3 contributions : https://github.com/math-comp/math-comp/pull/879, https://github.com/math-comp/math-comp/pull/210 and [divpoly](https://github.com/thery/mathcomp-extra/blob/master/divpoly.v).

This is not perfect and could be improved. So any feedback is welcome

EDIT by Cyril for github tracking and automation:
- closes #879 
- closes #210 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/qpoly.v [hunk 1]
```diff
@@ -0,0 +1,1054 @@
+From mathcomp
+Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice fintype tuple.
+From mathcomp
+Require Import bigop binomial finset finfun ssralg countalg finalg poly polydiv.
+From mathcomp
+Require Import perm fingroup matrix mxalgebra mxpoly vector countalg.
+
+(******************************************************************************)
+(* This file minic the zmod file for polynomial                               *)
```
Comment (Alizter) [inline mathcomp/algebra/qpoly.v:9]:
```suggestion
(* This file mimics the zmod file for polynomials                             *)
```

Comment (thery) [reply mathcomp/algebra/qpoly.v:9]: thanks

Comment (CohenCyril) [inline mathcomp/algebra/qpoly.v:9]:
```suggestion
(* This file mimic the zmod file for polynomial                               *)
```
I'm not sure this is the most explicative introducing sentence for the file.
Maybe something like this would be more appropriate:
```suggestion
(* This file defines the algebras R[X]/<p> and their theory.                  *)
```

File: mathcomp/algebra/qpoly.v [hunk 2]
```diff
@@ -0,0 +1,1054 @@
...
+(* be exposed.                                                                *)
+(* We provide two bases: the 'X^i and the lagrange polynomials.               *)
+(*     {poly_n R} == the type of polynomial of size at most n                 *)
+(* irreducibleb p == boolean decision procedure for irreducibility            *)
+(*                   of a bounded size polynomial over a finite idomain       *)
+(* Considering {poly_n F} over a field F, it is a vectType and                *)
+(*          'nX^i == 'X^i as an element of {poly_n R}                         *)
+(*         polynX == [tuple 'X^0, ..., 'X^(n - 1)], basis of {poly_n R}       *)
+(*    x.-lagrange == lagrange basis of {poly_n R} wrt x : nat -> F            *)
+(* x.-lagrange_ i == the ith lagrange polynomial wrt the sampling points x    *)
```
Comment (CohenCyril) [inline mathcomp/algebra/qpoly.v:23]: I think in mathcomp we capitalize proper names, maybe we should?

File: mathcomp/algebra/qpoly.v [hunk 3]
```diff
@@ -0,0 +1,1054 @@
...
+(* Second, it defines polynomials quotiented by a poly (equivalent of 'Z_p),  *)
+(* as bounded polynomial. As we are aiming to build a ring structure we need  *)
+(* the polynomial to be monic and of size greater than one. If it is not the  *)
+(* case we quotient by 'X                                                     *)
+(*     mk_qpoly p == the actual polynomial on which we quotient               *)
+(*                   if p is monic ans of size> 1 it is p otherwise 'X        *)
```
Comment (CohenCyril) [inline mathcomp/algebra/qpoly.v:29]:
```suggestion
(*                   if p is monic and of size > 1 it is p otherwise 'X       *)
```
Should we expose this?

File: mathcomp/algebra/qpoly.v [hunk 4]
```diff
@@ -0,0 +1,1054 @@
...
+(*      {qpoly p} == defined as {poly_(size (mk_poly p)).-1 R} on which       *)
+(*                   there is a ring structure                                *)
+(*     in_qpoly p == turn the polynomial p into an element of {qpoly p} by    *)
```
Comment (CohenCyril) [inline mathcomp/algebra/qpoly.v:32]:
```suggestion
(*     in_qpoly q == turn the polynomial q into an element of {qpoly p} by    *)
```

File: mathcomp/algebra/qpoly.v [hunk 5]
```diff
@@ -0,0 +1,1054 @@
...
+(* Third, it defines polynomials quotiented by a poly  (equivalent of 'F_p),  *)
+(* as {qpoly p}. As we are aiming to build a field structure we need          *)
+(* the polynomial to be monic and irreducible. As irreducible is not          *)
+(* decidable in general, this is done by giving a proof.                      *)
+(*      monic_irreducible_poly p == proof that p is monic is irreducible      *)
+(*     {qfpoly mi} == defined as {qpoly p} if mi proves that                  *)
+(*                    monic_irreducible_poly p                                *)
+(* Finally, it constructs the discrete logarithm with a primitive polynomial  *)
+(* on a final field                                                           *)
+(*    primitive_poly p == p is a primitive polynome                           *)
```
Comment (CohenCyril) [inline mathcomp/algebra/qpoly.v:44]:
```suggestion
(*    primitive_poly p == p is a primitive polynomial                         *)
```

File: mathcomp/algebra/qpoly.v [hunk 6]
```diff
@@ -0,0 +1,1054 @@
...
+(*     qlog sp_gt2' q == is the discrete log of q where q is an element of    *)
```
Comment (CohenCyril) [inline mathcomp/algebra/qpoly.v:45]: Why `qlog` and not `qlogp` (to mimic `logn` and `logp`) ?

File: mathcomp/algebra/qpoly.v [hunk 7]
```diff
@@ -0,0 +1,1054 @@
...
+Proof. by exists npoly_rV; [move=> ???; exact: linearP|exists rVnpoly]. Qed.
+
+Definition npoly_vect_mixin := VectMixin npoly_vect_axiom.
+Canonical npoly_vect_type := VectType R npolyR npoly_vect_mixin.
+
+End npoly.
+End poly_of_size_zmod.
+
+Notation "'{poly_' n R }" := (npoly_of (Phant R) n)
+  (at level 0, n at level 2, format "'{poly_' n  R }").
```
Comment (CohenCyril) [inline mathcomp/algebra/qpoly.v:145]: There should be a `Reserved Notation` at te beginning of the file.

File: mathcomp/algebra/qpoly.v [hunk 8]
```diff
@@ -0,0 +1,1054 @@
...
+Section npoly.
+
+Record npoly_of phR n : predArgType := NPoly_of {
+  polyn :> {poly R};
+  _ : polyn \is a poly_of_size n
+}.
+
+Variable (n : nat).
+
+Local Notation npolyR := (@npoly_of (Phant R) n).
```
Comment (CohenCyril) [inline mathcomp/algebra/qpoly.v:100]: We could write
```suggestion
Local Notation "'{poly_' n R }" := (@npoly_of (Phant R) n).
```
for the sake of uniformity.

File: mathcomp/algebra/qpoly.v [hunk 9]
```diff
@@ -0,0 +1,1054 @@
...
+Lemma qpolyXE : 2 < size h -> h \is monic -> 'qX = 'X :> {poly R}.
+Proof.
+move=> sh_gt2 h_mo.
+by rewrite in_qpoly_small // size_polyX /mk_qpoly ifT // (ltn_trans _ sh_gt2).
+Qed.
+
+End Qpoly.
+
+Notation "'qX" := (qpolyX _).
+Notation "{qpoly  p }" := (qpoly p).
```
Comment (CohenCyril) [inline mathcomp/algebra/qpoly.v:530]: There should be a `Reserved Notation` and probably some quotes as in the `'{poly_' n }` notation.

File: mathcomp/algebra/qpoly.v [hunk 10]
```diff
@@ -0,0 +1,1054 @@
...
+(*         polynX == [tuple 'X^0, ..., 'X^(n - 1)], basis of {poly_n R}       *)
+(*    x.-lagrange == lagrange basis of {poly_n R} wrt x : nat -> F            *)
+(* x.-lagrange_ i == the ith lagrange polynomial wrt the sampling points x    *)
+(* Second, it defines polynomials quotiented by a poly (equivalent of 'Z_p),  *)
+(* as bounded polynomial. As we are aiming to build a ring structure we need  *)
+(* the polynomial to be monic and of size greater than one. If it is not the  *)
+(* case we quotient by 'X                                                     *)
+(*     mk_qpoly p == the actual polynomial on which we quotient               *)
+(*                   if p is monic ans of size> 1 it is p otherwise 'X        *)
+(*      {qpoly p} == defined as {poly_(size (mk_poly p)).-1 R} on which       *)
```
Comment (CohenCyril) [inline mathcomp/algebra/qpoly.v:30]: Wouldn't it look nicer as : `{poly R %/ p}` to denote the quotient?
(and why not where `R` could be omitted but printed back)

**Review by CohenCyril — CHANGES_REQUESTED** [review]
That's great that you pulled together all of this.
I left a few comments about typos and namings mostly.

Also could you please edit your commit log message so as to credit the other contributors:
```
Co-Authored-By: Cyril Cohen <cyril.cohen@inria.fr>
Co-Authored-By: josh <joshcohen98@gmail.com>
```
Thanks

File: mathcomp/algebra/qpoly.v (hunk 10 above)
Comment (thery) [reply mathcomp/algebra/qpoly.v:30]: I have always problem with this.
As it is now R is a ringType, my worry is to ugly prettyprint when the ringType has been inferred from p.

Comment (CohenCyril) [reply mathcomp/algebra/qpoly.v:31]: ok... then how about printing `{poly %/ q}` ?

**Comment by CohenCyril** [comment]
BTW we should also add the structures of algebra, field algebra, field extension and normal field extension when it makes sense. (So as to provide the missing ingredients for the zulip topic [Explicit construction of F256](https://coq.zulipchat.com/#narrow/stream/237664-math-comp-users/topic/Explicit.20construction.20of.20F256))

**Comment by thery** [comment]
For algebra I can do it, for the other structure I am less familiar (but I will have a look) but this indicates that we should split qpoly.v  moving the construction of qfpoly to field.

File: mathcomp/algebra/qpoly.v (hunk 10 above)
Comment (thery) [reply mathcomp/algebra/qpoly.v:31]: ok but `{qfpoly mi}`  stays like this or we go  `{poly %f/  mi}`?

**Comment by thery** [comment]
@CohenCyril ok I am stuck in the galois thing. I still have to understand what I actually need to prove.

**Comment by thery** [comment]
@CohenCyril  ok I have done somehing but  with no control as  I don't understand the comments about the problems with finType and canonical structure in `finfield.v`.

File: mathcomp/algebra/qpoly.v (hunk 2 above)
Comment (CohenCyril) [reply mathcomp/algebra/qpoly.v:24]: Sure... but [`Gauss`](https://github.com/math-comp/math-comp/blob/547ab317ade3ae546dc4e49c698108d58891c373/mathcomp/ssreflect/div.v#L909) and [`Lagrange`](https://github.com/math-comp/math-comp/blob/4d5fe7603d53482012734011c70f508e6726959a/mathcomp/fingroup/fingroup.v#L1932)

I think in the long run none of these theorems should carry a proper name (since there is a huge overloading, Gauss, Lagrange, Cauchy, etc theorems are legion), but that there should be an annotation/docstring/attribute to give the common name of the theorem.

Hence, matters little until this is done, and let's keep it as such for now...

File: mathcomp/algebra/qpoly.v (hunk 10 above)
Comment (CohenCyril) [reply mathcomp/algebra/qpoly.v:31]: Or `{poly %/ q given mi}`, `{poly %/ q using mi}` or something else that would be less "symbolic" ?

**Comment by CohenCyril** [comment]
> @CohenCyril ok I have done somehing but with no control as I don't understand the comments about the problems with finType and canonical structure in `finfield.v`.

I'll take a look

**Comment by thery** [comment]
@CohenCyril what I don't understand is why once you are a finite field you don't have automatically all the good properties and you still have to do something.

File: mathcomp/algebra/qpoly.v (hunk 10 above)
Comment (thery) [reply mathcomp/algebra/qpoly.v]: done

**Comment by thery** [comment]
We have checked the compatibility with #879 and  [Verified-FEC](https://github.com/thery/Verified-FEC/tree/qpoly).

**Comment by affeldt-aist** [comment]
This PR was briefly mentioned during today's meeting (https://github.com/math-comp/math-comp/wiki/Minutes-April-19-2023) where participants wondered about the status.

**Comment by thery** [comment]
should work on it next week. Two things to do 
1) Add some theorems in order to avoid unfolding 
2) Understand what it means port to HB

**Comment by proux01** [comment]
The HB port can be done afterwards (I had a quick look and I'm not too worried, basically replacing the `Canonical`s by `HB.instance`s should do the job, I could provide help if needed).

**Comment by thery** [comment]
@CohenCyril   ok it reshapes a bit the PR, should be ok now

**Comment by proux01** [comment]
@thery I rebased instead of merge to get a simpler history and I updated the CI which is now green.

@CohenCyril you requested some change so I guess this is on your side now

**Comment by thery** [comment]
@proux01 thanks Pierre!

File: mathcomp/field/qfpoly.v [hunk 11]
```diff
@@ -0,0 +1,506 @@
...
+by rewrite qpoly_const0.
+Qed.
+
+End inPoly.
+
+Section finPoly.
+
+(* Unfortunately we need some duplications so inference 
+   propagates qfpoly :-( )*)
+Definition qfpoly_const (R : idomainType) (h : {poly R})
```
Comment (CohenCyril) [inline mathcomp/field/qfpoly.v:202]:
```suggestion
Definition qfpolyC (R : idomainType) (h : {poly R})
```

**Review by CohenCyril — APPROVED** [review]
Looks good to me, I just have a few minor remarks

File: mathcomp/algebra/poly.v [hunk 12]
```diff
@@ -559,6 +559,16 @@ Canonical poly_ringType := Eval hnf in RingType {poly R} poly_ringMixin.
 Canonical polynomial_ringType :=
   Eval hnf in RingType (polynomial R) poly_ringMixin.
 
+Lemma poly_natmul n : n%:R%:P = n%:R :> {poly R}.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/poly.v:562]: It seems to me that this lemma is just an instance of `rmorph_nat` after `Canonical polyC_rmorphism`.

[the remark this answers is not in the document]
Comment (thery) [reply mathcomp/algebra/poly.v:562]: @pi8027 well spotted! Is it ok to keep since `rmorph_nat` is not found by `Search`

**Comment by thery** [comment]
@CohenCyril  Thanks!

File: mathcomp/algebra/polydiv.v [hunk 13]
```diff
@@ -1059,7 +1118,7 @@ Qed.
 Lemma ltn_modpN0 p q : q != 0 -> size (p %% q) < size q.
 Proof. by rewrite ltn_modp. Qed.
 
-Lemma modp_mod p q : (p %% q) %% q = p %% q.
+Lemma modp_id p q : (p %% q) %% q = p %% q.
```
Comment (CohenCyril) [inline mathcomp/algebra/polydiv.v:1121]: Sorry, I realize my comment never was posted... 
Could you just add a deprecation for this?
```suggestion
#[deprecated(since="mathcomp 2.1.0", note="Use modp_id instead.")]
Notation modp_mod := modp_id.
```

File: mathcomp/algebra/polydiv.v [hunk 14]
```diff
@@ -1059,7 +1118,7 @@ Qed.
...
 Proof.
 by have [->|qn0] := eqVneq q 0; rewrite ?modp0 // modp_small ?ltn_modp.
 Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/polydiv.v:1124]: Sorry, I realize my comment never was posted... 
Could you just add a deprecation for this?
```suggestion
Lemma modp_id p q : (p %% q) %% q = p %% q.
Proof.
by have [->|qn0] := eqVneq q 0; rewrite ?modp0 // modp_small ?ltn_modp.
Qed.

#[deprecated(since="mathcomp 2.1.0", note="Use modp_id instead.")]
Notation modp_mod := modp_id.
```
